US07253196B2
2-((2S)-Bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-5-((1-(methylsulfonyl)piperidin-4-yl)methyl)thiazol-4(5H)-one
To a solution of 2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-5-(piperidin-4-ylmethyl)thiazol-4(5H)-one (64 mg, 0.20 mmol) in CH2Cl2 (1.5 mL) was added methanesulfonyl chloride (Aldrich, 34 mg, 0.30 mmol) and triethylamine (60 mg, 0.60 mmol), and the reaction mixture was stirred at room temperature for ca. 18 h. Water (30 mL) was then added, and the crude product was extracted with CH2Cl2 (3×60 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Flash column chromatography (silica gel, 0-3% MeOH in CH2Cl2) afforded the title compound as a white solid (34 mg). MS (ESI, pos. ion) m/z: 400 (M+H).

reactant | 2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-5-(piperidin-4-ylmethyl)thiazol-4(5H)-one | 0.20 mmol, 64 mg | C12[C@H](CC(CC1)C2)NC=2SC(C(N2)=O)(CC2CCNCC2)C | C17H27N3OS
reactant | methanesulfonyl chloride | 0.30 mmol, 34 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.60 mmol, 60 mg | C(C)N(CC)CC | C6H15N
reactant | Water | 30 mL | O | H2O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 2-((2S)-Bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-5-((1-(methylsulfonyl)piperidin-4-yl)methyl)thiazol-4(5H)-one | 34 mg | C12[C@H](CC(CC1)C2)NC=2SC(C(N2)=O)(CC2CCN(CC2)S(=O)(=O)C)C | C18H29N3O3S2
